US06887871B2
a) 4-Chloro-2-[[(1R)-3-chloro-1-(2-thienyl)propyl]oxy]benzonitrile
Using 4-chloro-2-hydroxybenzonitrile (303 mg, 1.97 mmol) and (S)-α-(2-chloroethyl) thiophenemethanol (349 mg, 1.97 mmol), and the procedure described in Example 5(a), the title compound was prepared as a white crystalline solid (373 mg, 61%).

reactant | 4-chloro-2-hydroxybenzonitrile | 1.97 mmol, 303 mg | ClC1=CC(=C(C#N)C=C1)O | C7H4ClNO
reactant | (S)-α-(2-chloroethyl) thiophenemethanol | 1.97 mmol, 349 mg | ClCC[C@H](O)C=1SC=CC1 | C7H9ClOS
product | 4-Chloro-2-[[(1R)-3-chloro-1-(2-thienyl)propyl]oxy]benzonitrile | ClC1=CC(=C(C#N)C=C1)O[C@H](CCCl)C=1SC=CC1 | C14H11Cl2NOS
